US04996341
A 500 ml three necked flask was charged with 300 ml of dry benzene and 48.5 g (0.11 mole) of 1,2-diisopropyl-1,1,2,2-tetraphenyldisilane, and the disilane was uniformly dissolved. To the solution was added 1.5 g of anhydrous aluminium chloride While a dry hydrogen chloride gas was introduced into the benzene solution through a needle tube, the flask was heated for a short time to initiate the reaction. After the reaction once began, generation of heat continued for about 20 minutes After the termination of the exothermic reaction, the introduction of the hydrogen chloride gas was stopped. After 2 ml of dry acetone was added in order to inactivate the aluminium chloride, the solvent was distilled away from the reaction mixture. The residue was subjected to a fractional distillation to give 27 g (0.095 mole, 86% yield) of 1,2-diisopropyl-1,1,2,2-tetrachlorodisilane in a colorless clear liquid (b.p. 55° to 57° C./0.45 Torr).

reactant | 1,2-diisopropyl-1,1,2,2-tetraphenyldisilane | 0.11 mole, 48.5 g | C(C)(C)[Si]([Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)C)(C1=CC=CC=C1)C1=CC=CC=C1 | C30H34Si2
reactant | disilane | [SiH3][SiH3] | H6Si2
reactant | aluminium chloride | 1.5 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrogen chloride | Cl | ClH
solvent | acetone | 2 ml | CC(=O)C | C3H6O
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | benzene | 300 ml | C1=CC=CC=C1 | C6H6
product | 1,2-diisopropyl-1,1,2,2-tetrachlorodisilane | 0.095 mole, 27 g, 86% yield | C(C)(C)[Si]([Si](Cl)(Cl)C(C)C)(Cl)Cl | C6H14Cl4Si2
